datasets/RMG-dataset.csv
rxn,Ea
[O:0][C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:8])[H:9].[O:15][O:16]>>[H:8][O:15][O:16].[O:0]=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9],-14.76952
[C:3]([C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[S:0]([H:1])[H:2]>>[H:1][C:3]([C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[S:0][H:2],30.9616
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][C:7]([H:8])([H:9])[H:10],6.815736
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25](=[C:26]([H:30])[H:31])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:24]([C:25](=[C:26]([H:30])[H:31])[H:29])([H:27])[H:28])[H:14])([H:12])[H:13],54.8941
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]([C:3]1([H:10])[C:4]([H:11])([H:12])[C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:9])[H:8],21.7986
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])[C:6]1([C:7]([H:20])([H:21])[H:22])[H:19],27.196
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[H:7]>>[C:0](#[C:1][C:2]#[C:3][H:6])[H:4].[H:5][H:7],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][C:11]([H:12])([H:13])[H:14])[H:6])[H:5].[H:10],63.1784
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])=[C:9]([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])([H:19])[H:20])([H:17])[H:18])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])[H:13],85.8138
[C:0](=[C:1]([C:2]([S:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:13])([H:8])[H:9])[H:7])([H:5])[H:6].[C:4]([H:10])([H:11])[H:12],14.644
[C:0]([O:1])([H:2])([H:3])[H:4].[N:5]=[O:6]>>[C:0](=[O:1])([H:3])[H:4].[H:2][N:5]=[O:6],23.4304
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[C:6](=[C:7]([H:15])[H:16])[H:14])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([C:6](=[C:7]([H:15])[H:16])[H:14])[C:5]1([H:12])[H:13])[H:8],137.152
[C:0](=[C:1]([C:2]#[C:3][C:4]#[C:5][H:8])[H:7])[H:6].[H:9]>>[C:0](=[C:1]([C:2]#[C:3][C:4]#[C:5][H:8])[H:7])([H:6])[H:9],50.71008
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:4])([H:5])[H:6].[S:3]([H:11])[H:12],12.9704
[C:0](=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:13])[H:12].[H:21]>>[C:0](#[C:1][c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:12].[H:13][H:21],44.480104
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26]([H:27])([H:28])[H:29])[H:14])([H:12])[H:13],25.9826
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[S:4][H:14])([H:5])([H:6])[H:7].[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:5])([H:6])[H:7].[S:4]([H:14])[H:15],10.0416
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:28])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:26])[H:27])([H:23])([H:24])[H:25],66.944
